US07576074B2
Methyl 3,6-anhydro-2-O-methyl-β-D-glucofuranoside (420 mg, 2.6 mmol) was dissolved in dichloromethane (10 mL) and pyridine (0.36 mL, 3.7 mmol) at 0° C. Methanesulfonyl chloride (0.14 mL, 3.1 mmol) was added and the resulting mixture was stirred at 0° C. for 1 hour then at room temperature for 2 hours. The reaction mixture was washed with water and saturated aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate, filtered and concentrated to give methyl 3,6-anhydro-2-O -methyl-5-O-(methylsulfonyl)-β-D-glucofuranoside as a colorless oil, 669 mg, 95% yield, which was used without further purification.

reactant | Methyl 3,6-anhydro-2-O-methyl-β-D-glucofuranoside | 2.6 mmol, 420 mg | CO[C@H]1[C@H](OC)O[C@H]2[C@@H]1OC[C@H]2O | C8H14O5
reactant | pyridine | 3.7 mmol, 0.36 mL | N1=CC=CC=C1 | C5H5N
reactant | Methanesulfonyl chloride | 3.1 mmol, 0.14 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | methyl 3,6-anhydro-2-O -methyl-5-O-(methylsulfonyl)-β-D-glucofuranoside | 95% yield | CO[C@H]1[C@H](OC)O[C@H]2[C@@H]1OC[C@H]2OS(=O)(=O)C | C9H16O7S
